US08802690B2
Methyl 5-nitropyridine-2-carboxylate (182 g, 1 mol) was refluxed in piperidine (250 mL) for 1 hour. The reaction mixture was concentrated in vacuo to give crude 5-nitro-2-(piperidin-1-ylcarbonyl)pyridine, which was used for the next stage without additional purification.

reactant | Methyl 5-nitropyridine-2-carboxylate | 1 mol, 182 g | [N+](=O)([O-])C=1C=CC(=NC1)C(=O)OC | C7H6N2O4
solvent | piperidine | 250 mL | N1CCCCC1 | C5H11N
product | 5-nitro-2-(piperidin-1-ylcarbonyl)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)C(=O)N1CCCCC1 | C11H13N3O3
